US05342846
1-Cyclopropyl-6-fluoro-7-(3-(1 , 2 , 3-triazol-1-yl) pyrrolidin-1-yl]-1,4-dihydro-4-oxo-quinoline-3-carboxylic acid
A mixture of 1-cyclopropyl-6,7-difluoro-1,4-dihydro-4-oxo-quinoline-3-carboxylic acid (120 mg, 0.486 mmol), DBU (190 mg, 1.25 mmol), 3-(1,2,3-triazol-1-yl)pyrrolidine hydrochloride (216 mg, 1.25 mmol) in pyridine (8 ml) was heated at 80° C. for 18 h. The reaction mixture was concentrated and treated with water. The separated solid was collected by filtration, washed with water and acetonitrile to give light brown solid. Yield: 71 mg (38%), m.p. 284° C. (dec). 1H NMR (TFA) δ: 1.5 (m, 4H), 3.0 (m, 2H), 4.0 (m, 4H), 4.65 (bs, 1H), 5.9 (bs, 1H), 7.5 (d, 1H),8.20 (d, 1H), 8.6 (s, 1H), 8.7 (s, 1H), 9.2 (S, 1H).

reactant | 1-cyclopropyl-6,7-difluoro-1,4-dihydro-4-oxo-quinoline-3-carboxylic acid | 0.486 mmol, 120 mg | C1(CC1)N1C=C(C(C2=CC(=C(C=C12)F)F)=O)C(=O)O | C13H9F2NO3
reactant | DBU | 1.25 mmol, 190 mg | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | 3-(1,2,3-triazol-1-yl)pyrrolidine hydrochloride | 1.25 mmol, 216 mg | Cl.N1(N=NC=C1)C1CNCC1
solvent | pyridine | 8 ml | N1=CC=CC=C1 | C5H5N
product | 1-Cyclopropyl-6-fluoro-7-(3-(1 , 2 , 3-triazol-1-yl) pyrrolidin-1-yl]-1,4-dihydro-4-oxo-quinoline-3-carboxylic acid | C1(CC1)N1C=C(C(C2=CC(=C(C=C12)N1CC(CC1)N1N=NC=C1)F)=O)C(=O)O | C19H18FN5O3
